US08623862B2
Step 1: tert-Butyl 3-(hydroxymethyl)-4-methylpiperazine-1-carboxylate.
0.303 g of sodium acetate, 0.375 g of formaldehyde and 0.218 g of sodium cyanoborohydride are added to a solution of 0.5 g of tert-butyl 3-(hydroxymethyl)piperazine-1-carboxylate in 50 ml of MeOH and stirred for 1 hour at RT. A saturated solution of NaHCO3 is added, it is extracted with DCM, the organic phase is dried over Na2SO4 and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, eluting with DCM/MeOH mixture. 0.31 g of the expected compound is obtained.

reactant | sodium acetate | 0.303 g | C(C)(=O)[O-].[Na+]
reactant | formaldehyde | 0.375 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.218 g | C(#N)[BH3-].[Na+]
reactant | tert-butyl 3-(hydroxymethyl)piperazine-1-carboxylate | 0.5 g | OCC1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
product | tert-Butyl 3-(hydroxymethyl)-4-methylpiperazine-1-carboxylate | 0.31 g | OCC1CN(CCN1C)C(=O)OC(C)(C)C | C11H22N2O3
